### PR TITLE
[Merged by Bors] - feat: add `RingTheory.Trace.Quotient`: relations between trace maps and quotients

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add a file `RingTheory.Trace.Quotient` gathering results about the relations between the trace map on `B → A` and the trace map on quotients and localizations.

Co-authored-by: Andrew Yang <36414270+erdOne@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 1]
```diff
@@ -0,0 +1,311 @@
...
+    refine ((inferInstanceAs <| (maximalIdeal Rₚ).IsPrime).mem_or_mem ?_).resolve_left this
+    rw [mul_sub, IsLocalization.mul_mk'_eq_mk'_of_mul, IsLocalization.mk'_mul_cancel_left,
+      ← map_mul, ← map_sub, ← Ideal.mem_comap, IsLocalization.AtPrime.comap_maximalIdeal Rₚ p,
+      mul_left_comm,
+      ← Ideal.Quotient.eq_zero_iff_mem, map_sub, map_mul, map_mul, hs, mul_inv_cancel, mul_one,
+      sub_self]
+    rw [Ne, Ideal.Quotient.eq_zero_iff_mem]
+    exact s.prop
+
+lemma IsLocalization.AtPrime.map_eq_maximalIdeal :
```
Comment (erdOne) [inline Mathlib/RingTheory/Trace/Quotient.lean:164]: I think this shouldn't be here.

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 2]
```diff
@@ -0,0 +1,311 @@
...
+        ext; simp [Ideal.Quotient.eq_zero_iff_mem]
+      rw [← this, ← comap_map_eq, mem_comap, ← H, hs]
+      trivial
+  · intro hs
+    rw [hs, Submodule.map_top] at H
+    change _ = LinearMap.range (Ideal.Quotient.mkₐ _ _) at H
+    rwa [LinearMap.range_eq_top.mpr (Ideal.Quotient.mkₐ_surjective _ _),
+      restrictScalars_eq_top_iff] at H
+
+theorem finrank_quotient_map_of_localRing :
```
Comment (erdOne) [inline Mathlib/RingTheory/Trace/Quotient.lean:60]: This lemma (and the previous one) also should have better places to go.

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 3]
```diff
@@ -0,0 +1,311 @@
...
+  refine (Submodule.add_mem_iff_left _ ?_).mp this
+  rw [Algebra.smul_def]
+  apply Ideal.mul_mem_right
+  exact Ideal.mem_map_of_mem _ hγ
+
+variable (S Sₚ)
+
+/-- The isomorphism `S ⧸ pS ≃+* Sₚ ⧸ pSₚ`. -/
+noncomputable
+def quotMapEquivQuotMapMaximalIdealOfIsLocalization : S ⧸ pS ≃+* Sₚ ⧸ pSₚ := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Trace/Quotient.lean:206]: I think this def and the ones (in this section) before it should also go somewhere else.

File: Mathlib/RingTheory/IntegralRestrict.lean [hunk 4]
```diff
@@ -268,6 +268,26 @@ lemma Algebra.intTrace_eq_of_isLocalization
   rw [← IsScalarTower.algebraMap_apply, Algebra.algebraMap_intTrace_fractionRing,
     Algebra.algebraMap_intTrace (L := L), ← IsScalarTower.algebraMap_apply]
 
+variable {A} in
+lemma isIntegrallyClosed_of_isLocalization [IsIntegrallyClosed A] [IsDomain A] (M : Submonoid A)
```
Comment (erdOne) [inline Mathlib/RingTheory/IntegralRestrict.lean:272]: Can this go in `Mathlib.RingTheory.IntegrallyClosed` instead?

**Comment by erdOne** [comment]
Thanks a lot for doing this!

File: Mathlib/RingTheory/IntegralRestrict.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/IntegralRestrict.lean:272]: No, since it needs [IsFractionRing.isFractionRing_of_isDomain_of_isLocalization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/LocalizationLocalization.html#IsFractionRing.isFractionRing_of_isDomain_of_isLocalization). It cannot go to `Mathlib.RingTheory.Localization.LocalizationLocalization` either, since that file doesn't know what `IsIntegrallyClosed` means. I can Of course change a little the imports.

Comment (riccardobrasca) [reply Mathlib/RingTheory/IntegralRestrict.lean:272]: Maybe we need a file for about licalization and integral closure.

Comment (erdOne) [reply Mathlib/RingTheory/IntegralRestrict.lean:272]: I think it makes sense to add `Mathlib.RingTheory.Localization.LocalizationLocalization` to the import of `Mathlib.RingTheory.IntegrallyClosed`.

Comment (riccardobrasca) [reply Mathlib/RingTheory/IntegralRestrict.lean]: OK, that makes sense. Anyway we should probably split `IntegrallyClosed` into `defs` `basic` etc. (I will do in another PR.)

File: Mathlib/RingTheory/Trace/Quotient.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Trace/Quotient.lean:62]: Hmm, this is also a mess. Let me split some stuff before going back to this PR.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Trace/Quotient.lean]: Done

File: Mathlib/LinearAlgebra/Dimension/Constructions.lean [hunk 5]
```diff
@@ -469,6 +469,12 @@ theorem span_lt_top_of_card_lt_finrank {s : Set M} [Fintype s]
     (card_lt : s.toFinset.card < finrank R M) : span R s < ⊤ :=
   lt_top_of_finrank_lt_finrank (lt_of_le_of_lt (finrank_span_le_card _) card_lt)
 
+lemma finrank_le_of_span_eq_top {ι} [Fintype ι] {v : ι → M}
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Dimension/Constructions.lean:472]: What's `ι`? `Type*`? `Sort*`? I think I'd prefer it explicit

File: Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean [hunk 6]
```diff
@@ -268,3 +269,26 @@ theorem isIntegrallyClosedOfFiniteExtension [IsDomain R] [FiniteDimensional K L]
...
+    (by rw [RingHom.algebraMap_toAlgebra, IsLocalization.map_comp, RingHomCompTriple.comp_eq])
+  have := IsFractionRing.isFractionRing_of_isDomain_of_isLocalization M S K
+  refine (isIntegrallyClosed_iff_isIntegralClosure (K := K)).mpr
+    ⟨IsFractionRing.injective _ _, fun {x} ↦ ⟨?_, fun e ↦ e.choose_spec ▸ isIntegral_algebraMap⟩⟩
+  intro hx
+  obtain ⟨⟨y, y_mem⟩, hy⟩ := hx.exists_multiple_integral_of_isLocalization M _
+  obtain ⟨z, hz⟩ := (isIntegrallyClosed_iff _).mp ‹_› hy
+  refine ⟨IsLocalization.mk' S z ⟨y, y_mem⟩, (IsLocalization.lift_mk'_spec _ _ _ _).mpr ?_⟩
+  rw [RingHom.comp_id, hz, ← Algebra.smul_def]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean:292]: What's the `rfl` doing here? Please check if you can avoid it

File: Mathlib/RingTheory/LocalRing/Quotient.lean [hunk 7]
```diff
@@ -0,0 +1,102 @@
...
+
+local notation "p" => maximalIdeal R
+local notation "pS" => Ideal.map (algebraMap R S) p
+
+theorem quotient_span_eq_top_iff_span_eq_top (s : Set S) :
+    span (R ⧸ p) ((Ideal.Quotient.mk (I := pS)) '' s) = ⊤ ↔ span R s = ⊤ := by
+  have H : (span (R ⧸ p) ((Ideal.Quotient.mk (I := pS)) '' s)).restrictScalars R =
+      (span R s).map (IsScalarTower.toAlgHom R S (S ⧸ pS)) := by
+    rw [map_span, ← restrictScalars_span R (R ⧸ p) Ideal.Quotient.mk_surjective]
+    rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/LocalRing/Quotient.lean:32]: Same q about the `rfl`

File: Mathlib/RingTheory/LocalRing/Quotient.lean [hunk 8]
```diff
@@ -0,0 +1,102 @@
...
+    · rw [Ideal.smul_top_eq_map]
+      rintro x -
+      have : LinearMap.ker (IsScalarTower.toAlgHom R S (S ⧸ pS)) =
+          restrictScalars R pS := by
+        ext; simp [Ideal.Quotient.eq_zero_iff_mem]
+      rw [← this, ← comap_map_eq, mem_comap, ← H, hs]
+      trivial
+  · intro hs
+    rw [hs, Submodule.map_top] at H
+    change _ = LinearMap.range (Ideal.Quotient.mkₐ _ _) at H
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/LocalRing/Quotient.lean:48]: And this `change`

File: Mathlib/RingTheory/LocalRing/Quotient.lean [hunk 9]
```diff
@@ -0,0 +1,102 @@
...
+    rw [← Set.range_comp, show Ideal.Quotient.mk pS ∘ b' = ⇑b from funext hb']
+    exact b.span_eq
+
+/-- Given a basis of `S`, the induced basis of `S / Ideal.map (algebraMap R S) p`. -/
+noncomputable
+def basisQuotient {ι} [Fintype ι] (b : Basis ι R S) : Basis ι (R ⧸ p) (S ⧸ pS) :=
+  basisOfTopLeSpanOfCardEqFinrank (Ideal.Quotient.mk pS ∘ b) (by
+    rw [Set.range_comp]
+    exact ((quotient_span_eq_top_iff_span_eq_top _).mpr b.span_eq).ge)
+    (by rw [finrank_quotient_map, finrank_eq_card_basis b])
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/LocalRing/Quotient.lean:82]: I'd suggest
```suggestion
  basisOfTopLeSpanOfCardEqFinrank (Ideal.Quotient.mk pS ∘ b)
    (by
      rw [Set.range_comp]
      exact ((quotient_span_eq_top_iff_span_eq_top _).mpr b.span_eq).ge)
    (by rw [finrank_quotient_map, finrank_eq_card_basis b])
```

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 10]
```diff
@@ -0,0 +1,240 @@
...
+import Mathlib.RingTheory.DedekindDomain.Dvr
+import Mathlib.RingTheory.IntegralClosure.IntegralRestrict
+
+/-!
+
+We gather results about the relations between the trace map on `B → A` and the trace map on
+quotients and localizations.
+
+## Main Results
+  `Algebra.trace_quotient_eq_of_isDedekindDomain` : The trace map on `B → A` coincides with the
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Trace/Quotient.lean:17]:
```suggestion

* `Algebra.trace_quotient_eq_of_isDedekindDomain` : The trace map on `B → A` coincides with the
```

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 11]
```diff
@@ -0,0 +1,240 @@
...
+attribute [local instance] Ideal.Quotient.field
+
+lemma Algebra.trace_quotient_mk (x : S) :
+    Algebra.trace (R ⧸ p) (S ⧸ pS) (Ideal.Quotient.mk pS x) =
+      Ideal.Quotient.mk p (Algebra.trace R S x) := by
+  classical
+  let ι := Module.Free.ChooseBasisIndex R S
+  let b : Basis ι R S := Module.Free.chooseBasis R S
+  rw [trace_eq_matrix_trace b, trace_eq_matrix_trace (basisQuotient b)]
+  show _ = (Ideal.Quotient.mk p).toAddMonoidHom _
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Trace/Quotient.lean:42]: Avoidable?

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 12]
```diff
@@ -0,0 +1,240 @@
...
+variable [LocalRing Rₚ] [CommRing Sₚ] [Algebra S Sₚ] [Algebra R Sₚ] [Algebra Rₚ Sₚ]
+variable [IsLocalization (Algebra.algebraMapSubmonoid S p.primeCompl) Sₚ]
+variable [IsScalarTower R S Sₚ] [IsScalarTower R Rₚ Sₚ]
+
+variable (Rₚ)
+
+attribute [local instance] Ideal.Quotient.field
+
+/-- The isomorphism `R ⧸ p ≃+* Rₚ ⧸ maximalIdeal Rₚ`, where `Rₚ` satisfies
+`IsLocalization.AtPrime Rₚ p`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Trace/Quotient.lean:66]: Not sure this adds anything over the signature

File: Mathlib/LinearAlgebra/Matrix/Trace.lean [hunk 13]
```diff
@@ -103,8 +103,9 @@ theorem trace_sum (s : Finset ι) (f : ι → Matrix n n R) :
     trace (∑ i ∈ s, f i) = ∑ i ∈ s, trace (f i) :=
   map_sum (traceAddMonoidHom n R) f s
 
-theorem _root_.AddMonoidHom.map_trace [AddCommMonoid S] (f : R →+ S) (A : Matrix n n R) :
-    f (trace A)  = trace (f.mapMatrix A) :=
+theorem _root_.AddMonoidHom.map_trace [AddCommMonoid S] {F : Type*}  [FunLike F R S]
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/Trace.lean:106]:
```suggestion
theorem _root_.AddMonoidHom.map_trace [AddCommMonoid S] {F : Type*} [FunLike F R S]
```

File: Mathlib/LinearAlgebra/Matrix/Trace.lean [hunk 14]
```diff
@@ -103,8 +103,9 @@ theorem trace_sum (s : Finset ι) (f : ι → Matrix n n R) :
...
+    [AddMonoidHomClass F R S] (f : F) (A : Matrix n n R) :
+    f (trace A)  = trace ((f : R →+ S).mapMatrix A) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Matrix/Trace.lean:108]:
```suggestion
    f (trace A) = trace ((f : R →+ S).mapMatrix A) :=
```

File: Mathlib/RingTheory/LocalRing/Quotient.lean [hunk 15]
```diff
@@ -0,0 +1,102 @@
...
+    apply le_of_le_smul_of_le_jacobson_bot
+    · exact Module.finite_def.mp ‹_›
+    · exact (jacobson_eq_maximalIdeal ⊥ bot_ne_top).ge
+    · rw [Ideal.smul_top_eq_map]
+      rintro x -
+      have : LinearMap.ker (IsScalarTower.toAlgHom R S (S ⧸ pS)) =
+          restrictScalars R pS := by
+        ext; simp [Ideal.Quotient.eq_zero_iff_mem]
+      rw [← this, ← comap_map_eq, mem_comap, ← H, hs]
+      trivial
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/LocalRing/Quotient.lean:45]:
```suggestion
      rw [← this, ← comap_map_eq, mem_comap, ← H, hs, restrictScalars_top]
      exact mem_top
```

File: Mathlib/RingTheory/LocalRing/Quotient.lean [hunk 16]
```diff
@@ -0,0 +1,102 @@
...
+    choose b' hb' using fun i ↦ Ideal.Quotient.mk_surjective (b i)
+    conv_rhs => rw [finrank_eq_card_chooseBasisIndex]
+    apply finrank_le_of_span_eq_top
+    apply (quotient_span_eq_top_iff_span_eq_top _).mp
+    rw [← Set.range_comp, show Ideal.Quotient.mk pS ∘ b' = ⇑b from funext hb']
+    exact b.span_eq
+
+/-- Given a basis of `S`, the induced basis of `S / Ideal.map (algebraMap R S) p`. -/
+noncomputable
+def basisQuotient {ι} [Fintype ι] (b : Basis ι R S) : Basis ι (R ⧸ p) (S ⧸ pS) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/LocalRing/Quotient.lean:77]:
```suggestion
def basisQuotient {ι : Type*} [Fintype ι] (b : Basis ι R S) : Basis ι (R ⧸ p) (S ⧸ pS) :=
```
and below, or use `variable`

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 17]
```diff
@@ -0,0 +1,239 @@
+/-
+Copyright (c) 2024 Riccardo Brasca. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Andrew Yang, Riccardo Brasca
+-/
+
+import Mathlib.RingTheory.LocalRing.Quotient
+import Mathlib.RingTheory.DedekindDomain.Dvr
+import Mathlib.RingTheory.IntegralClosure.IntegralRestrict
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Trace/Quotient.lean:9]:
```suggestion
import Mathlib.RingTheory.DedekindDomain.Dvr
import Mathlib.RingTheory.IntegralClosure.IntegralRestrict
import Mathlib.RingTheory.LocalRing.Quotient
```

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 18]
```diff
@@ -0,0 +1,239 @@
...
+    rw [← sub_eq_zero, ← map_sub, Ideal.Quotient.eq_zero_iff_mem]
+    have : algebraMap R Rₚ s ∉ maximalIdeal Rₚ := by
+      rw [← Ideal.mem_comap, IsLocalization.AtPrime.comap_maximalIdeal Rₚ p]
+      exact s.prop
+    refine ((inferInstanceAs <| (maximalIdeal Rₚ).IsPrime).mem_or_mem ?_).resolve_left this
+    rw [mul_sub, IsLocalization.mul_mk'_eq_mk'_of_mul, IsLocalization.mk'_mul_cancel_left,
+      ← map_mul, ← map_sub, ← Ideal.mem_comap, IsLocalization.AtPrime.comap_maximalIdeal Rₚ p,
+      mul_left_comm,
+      ← Ideal.Quotient.eq_zero_iff_mem, map_sub, map_mul, map_mul, hs, mul_inv_cancel₀, mul_one,
+      sub_self]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Trace/Quotient.lean:88]: Strange line breaks here; intentional?

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean [hunk 19]
```diff
@@ -275,6 +276,27 @@ theorem isIntegrallyClosedOfFiniteExtension [IsDomain R] [FiniteDimensional K L]
...
+
+variable {R : Type*} (S : Type*) [CommRing R] [CommRing S] [Algebra R S]
+
+lemma isIntegrallyClosed_of_isLocalization [IsIntegrallyClosed R] [IsDomain R] (M : Submonoid R)
+    (hM : M ≤ R⁰) [IsLocalization M S] : IsIntegrallyClosed S := by
+  let K := FractionRing R
+  let g : S →+* K := IsLocalization.map _ (T := R⁰) (RingHom.id R) hM
+  letI := g.toAlgebra
+  have : IsScalarTower R S K := IsScalarTower.of_algebraMap_eq'
+    (by rw [RingHom.algebraMap_toAlgebra, IsLocalization.map_comp, RingHomCompTriple.comp_eq])
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/IntegralClosure/IntegrallyClosed.lean:289]: Does the `algebraize` tactic work here?

File: Mathlib/RingTheory/Trace/Quotient.lean [hunk 20]
```diff
@@ -0,0 +1,233 @@
...
+
+/-!
+
+We gather results about the relations between the trace map on `B → A` and the trace map on
+quotients and localizations.
+
+## Main Results
+
+* `Algebra.trace_quotient_eq_of_isDedekindDomain` : The trace map on `B → A` coincides with the
+    trace map on `B⧸pB → A⧸p`.
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Trace/Quotient.lean:19]:
```suggestion
  trace map on `B⧸pB → A⧸p`.
```

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by Ruben-VandeVelde** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
